US04303655
To a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-formylamino-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-formylimino-2,3-dihydro-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid, (1.5 g.) in methanol (30 ml.) was added phosphorus oxychloride (1.06 g.) under ice-cooling and stirring, and the mixture was stirred for 1 hour at the same temperature and then further stirred for 4 hours at room temperature. To the reaction mixture was added diethyl ether (150 ml.), and the procipitates were collected by filtration and then dried. Thus obtained pale yellow powder (1.30 g.) was added to water (30 ml.), and the mixture was adjusted to pH 1 to 2 with 10% hydrochloric acid. The resulting solution was treated with an activated charcoal, washed with ethyl acetate and then adjusted to pH 7 with a 5% sodium bicarbonate aqueous solution. The solution was washed with ethyl acetate, adjusted to pH 3 with 10% hydrochloric acid and then filtered. The aqueous solution was absorbed on a HP-20 (neutral resin) column, which was washed with water and then eluted with an aqueous methanol solution. The eluates containing the object compound were collected and then methanol was distilled off under reduced pressure. The remaining aqueous solution was lyophilized to give 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid, (0.63 g.), mp. 130° to 200° C. (dec.).

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-formylamino-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C2=CN=C(S2)NC=O)OC=O)=O)=O | C17H16N8O7S3
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-formylimino-2,3-dihydro-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C2=CNC(S2)=NC=O)OC=O)=O)=O | C17H16N8O7S3
reactant | phosphorus oxychloride | 1.06 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C2=CN=C(S2)N)O)=O)=O | C15H16N8O5S3
